US06329389B1
7-Chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid
IN Aqueous sodium hydroxide solution (60 ml) was added dropwise to a mixed solution of ethyl 7-chloro-2-oxo -1,2,3,4-tetrahydro-3-quinolinecarboxylate (14.39 g) in THF (180 ml) and methanol (120 ml) at 0° C. The reaction mixture was stirred at room temperature for 24 hours. 1N Hydrochloric acid (70 ml) was added dropwise to the reaction mixture at 0° C., which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated. The obtained crude crystals were washed with IPE to obtain the entitled compound (12.15 g).

reactant | ethyl 7-chloro-2-oxo -1,2,3,4-tetrahydro-3-quinolinecarboxylate | 14.39 g | ClC1=CC=C2CC(C(NC2=C1)=O)C(=O)OCC | C12H12ClNO3
reactant | Hydrochloric acid | 1N, 70 ml | Cl | ClH
solvent | sodium hydroxide | 60 ml | [OH-].[Na+]
solvent | THF | 180 ml | C1CCOC1 | C4H8O
solvent | methanol | 120 ml | CO | CH4O
product | 7-Chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid | 12.15 g | ClC1=CC=C2CC(C(NC2=C1)=O)C(=O)O | C10H8ClNO3
